US07247626B2
In a similar manner as described in Example 1 above, 3-[2-(butylamino)pyrimidin-4-yl]-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-7-amine (80 mg, 72%) was prepared from 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one and N-butylguanidine. 1H NMR (CDCl3): δ 8.04 (d, 1H), 7.74 (d, 1H), 7.60 (dd, 2H), 7.48 (d, 1H), 7.13 (t, 2H), 6.36 (d, 1H), 6.25 (d, 1H), 5.05 (t, 1H), 4.51 (m, 1H), 3.42 (qt, 2H), 2.16 (m, 2H), 1.78 (m, 2H), 1.56–1.70 (m, 6H), 1.43 (m, 2H), 0.95 (t, 3H). MS m/z 446 (M+1).

reactant | 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one | C1(CCCC1)NC1=NC=CC=2N1N=C(C2C(C=CN(C)C)=O)C2=CC=C(C=C2)F | C22H24FN5O
reactant | N-butylguanidine | C(CCC)NC(=N)N | C5H13N3
product | 3-[2-(butylamino)pyrimidin-4-yl]-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-7-amine | 80 mg, 72% | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C(=NC=CC21)NC2CCCC2)C2=CC=C(C=C2)F | C25H28FN7
